US05868960
Then, 17.4 g (0.047M) of 8,8,9,9,10,10,10-heptafluoro-3,6-dioxadecyl tetrahydropyranyl ether (purity: 99% or above), 35 ml of methanol, 18 ml of water and 2.2 ml of concentrated sulfuric acid were placed in a 100 ml-reaction vessel, followed by stirring for 2 hours at room temperature. The reaction mixture was poured into water and saturated with common salt. The saturated reaction mixture was subjected to extraction with ethyl acetate, washed with saturated common salt water and dried with anhydrous magnesium sulfate, followed by distilling-off of the solvent to obtain a residue. The residue was subjected to reduced-pressure distillation to obtain 6.4 g of 8,8,9,9,10,10,10-heptafluoro-3,6-dioxadecanol (b.p.: 86°-87° C./6 mmHg).

reactant | 8,8,9,9,10,10,10-heptafluoro-3,6-dioxadecyl tetrahydropyranyl ether | 0.047M, 17.4 g | O1C(CCCC1)OCCOCCOCC(C(C(F)(F)F)(F)F)(F)F | C13H19F7O4
reactant | methanol | 35 ml | CO | CH4O
reactant | sulfuric acid | 2.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | water | 18 ml | O | H2O
product | 8,8,9,9,10,10,10-heptafluoro-3,6-dioxadecanol | 6.4 g | FC(COCCOCCO)(C(C(F)(F)F)(F)F)F | C8H11F7O3
